US05686442
(a-1) To a solution of ethyl propiolate (6.6 ml, 65 mmole) in tetrahydrofuran (70 ml) was added at -65° C. under the argon atmosphere a solution of 1.0M lithium bistrimethylsilylamide in tetrahydrofuran (65 ml, 65 mmole), and the mixture was stirred for 20 minutes. A solution of 4-methyl-2-nitrobenzaldehyde (8.3 g, 50 mmole) in tetrahydrofuran (30 ml) was added, and the reaction mixture was further stirred at 65° C. for 3 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution (80 ml) or a solution of acetic acid (13.0 ml, 220 mmole) in tetrahydrofuran (20 ml), followed by water, and the aqueous layer was extracted with ethyl acetate. The organic layer was washed with dilute hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous saline in this sequence, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give ethyl 4-hydroxy-4(4-methyl-2-nitrophenyl)-2-butynoate as an oil (13.5 g).

reactant | ethyl propiolate | 65 mmole, 6.6 ml | C(C#C)(=O)OCC | C5H6O2
reactant | lithium bistrimethylsilylamide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-methyl-2-nitrobenzaldehyde | 50 mmole, 8.3 g | CC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO3
reactant | sodium hydrogen carbonate | 80 ml | C(O)([O-])=O.[Na+]
reactant | acetic acid | 220 mmole, 13.0 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65 mmole, 65 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 4-hydroxy-4(4-methyl-2-nitrophenyl)-2-butynoate | 13.5 g | OC(C#CC(=O)OCC)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C13H13NO5
